US08470841B2
16a: 5-Benzyloxy-2-(2-phenyl-[1,3]dioxan-5-yloxy)pyridine
2-Phenyl-[1,3]dioxan-5-ol (164 mg. 910 μmol) was dissolved in 5 ml of NMP. Addition of sodium hydride (60% in oil, 72.8 mg, 1.8 mmol) was followed by stirring at RT for 30 min and, after addition of 5-benzyloxy-2-chloropyridine (200 mg, 910 μmol), stirring in a microwave reactor at 200° C. for 1 h. The reaction mixture was concentrated in vacuo, the residue was taken up in ethyl acetate and water, and the organic phase was concentrated. The resulting crude product (386 mg) was directly reacted further.

reactant | 2-Phenyl-[1,3]dioxan-5-ol | 910 μmol, 164 mg | C1(=CC=CC=C1)C1OCC(CO1)O | C10H12O3
reactant | sodium hydride | 1.8 mmol, 72.8 mg | [H-].[Na+]
reactant | 5-benzyloxy-2-chloropyridine | 910 μmol, 200 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)Cl | C12H10ClNO
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 5-Benzyloxy-2-(2-phenyl-[1,3]dioxan-5-yloxy)pyridine | C(C1=CC=CC=C1)OC=1C=CC(=NC1)OC1COC(OC1)C1=CC=CC=C1 | C22H21NO4
